US08304557B2
3-(1-cyano-1-methylethyl)-N-[4-methyl-3-({2-[(morpholin-4-ylacetyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]benzamide
To a solution of N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-4-methylphenyl}-3-(1-cyano-1-methylethyl)benzamide (199 mg, 0.468 mmol) in N,N-dimethylformamide (5 mL) was added chloroacetyl chloride (76 μL, 0.842 mmol), and the mixture was stirred at room temperature for 1 hr. Water (15 mL) was added to the reaction mixture, and extracted with ethyl acetate (20 mL, 2×5 mL). The combined organic layer was washed with saturated brine (10 mL), and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=40/60→20/80), and fractions containing the desired product were concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (5 mL). Triethylamine (195 μL, 1.40 mmol) and morpholine (122 μL, 1.40 mmol) were added, and the mixture was stirred at 60° C. for 3 hr. Water (20 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (20 mL, 2×5 mL). The combined organic layer was washed with saturated brine (5 mL), and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/methanol=100/0→99/1), and fractions containing the desired product were concentrated under reduced pressure. Diisopropyl ether was added to the obtained residue. The obtained precipitate was collected by filtration and dried over to give the title compound (144 mg, 56%) as a colorless powder.

reactant | N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-4-methylphenyl}-3-(1-cyano-1-methylethyl)benzamide | 0.468 mmol, 199 mg | NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2C)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O)=N1 | C24H22N6O2
reactant | chloroacetyl chloride | 0.842 mmol, 76 μL | ClCC(=O)Cl | C2H2Cl2O
reactant | Triethylamine | 1.40 mmol, 195 μL | C(C)N(CC)CC | C6H15N
reactant | morpholine | 1.40 mmol, 122 μL | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | Water | 20 mL | O | H2O
solvent | Water | 15 mL | O | H2O
product | 3-(1-cyano-1-methylethyl)-N-[4-methyl-3-({2-[(morpholin-4-ylacetyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]benzamide | 144 mg, 56% | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=C(C=C2)C)OC=2C=CC=3N(C2)N=C(N3)NC(CN3CCOCC3)=O)C=CC1 | C30H31N7O4
